US03939263
Preparation of O,O-diethyl S-(tert-butylsulfonyl)methyl Phosphorodithioate ##EQU3##
To O,O-diethyl S-(tert-butylthio)methyl phosphorodithioate (28.8 grams, 0.10 mole, ca. 94% pure) in 100 ml. of tert-butyl alcohol is added a solution of magnesium sulfate (12.0 grams, 0.100 mole, 50% excess) in 100 ml. of water. Solid potassium permanganate (21.1 grams, 0.133 mole) is added in portions to the stirred mixture during one hour; the temperature of the mildly exothermic reaction is maintained at 25° to 35°C. with external cooling. The reaction mixture is stirred at room temperature overnight. The mixture is suction-filtered and the insoluble paste washed with 300 ml. of methylene chloride. The water-butanol-methylene chloride filtrate is separated and the aqueous phase extracted with two 50 ml. portions of methylene chloride. The organic solutions are combined, dried (MgSO4) and the solvents removed under reduced pressure to give 27.7 grams (86.7%) of moderately viscous, faintly straw-colored liquid. A 2.25-inch i.d. chromatographic column is filled to a height of 21 inches with 60/100 mesh Florisil, in carbon tetrachloride, the reaction product is placed on the column, and thirteen 1000-ml. effluent fractions are taken, using the following eluant series in 1000-ml. portions: CCl4 (X2), 5% (vol.) CH2Cl2 /CCl4, 10% CH2Cl2 /CCl4, 15% CH2Cl2 /CCl4, 25% CH2Cl2 /CCl4, 50% CH2Cl2 /CCl4, 75% CH2Cl2 / CCl4, CH2Cl2 (X2) and CH3OH (X3). The fractions are analyzed by TLC and fractions 9 (CH2Cl2 eluant), 10 (CH2Cl2 eluant), and 11 (CH3OH eluant) are found to be single component. These fractions are combined and the solvents removed under reduced pressure to give 9.91 grams (31.0%) of viscous, straw-colored liquid with the following analysis.

reactant | O,O-diethyl S-(tert-butylthio)methyl phosphorodithioate | 0.10 mole, 28.8 grams | P(OCC)(OCC)(=S)SCSC(C)(C)C | C9H21O2PS3
reactant | magnesium sulfate | 0.100 mole, 12.0 grams | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium permanganate | 0.133 mole, 21.1 grams | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
reactant | CH2Cl2 CCl4 | C(Cl)Cl.C(Cl)(Cl)(Cl)Cl
reactant | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH3OH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | O,O-diethyl S-(tert-butylsulfonyl)methyl Phosphorodithioate | P(OCC)(OCC)(=S)SCS(=O)(=O)C(C)(C)C | C9H21O4PS3
